* C:\Users\pig\Documents\ee308\lab3\integrator.asc
R1 N004 N007 {potTop}
R2 N001 N004 1k
R3 N007 N008 {potBot}
R4 N008 0 1k
V1 N001 0 12
XU1 N007 N002 N001 N018 N005 LM741
Q1 N016 N005 N003 0 2N3906
R5 N001 N003 1k
R6 N001 N002 1.25k
Q2 N006 N003 N002 0 2N3906
R7 N016 N018 1k
Q3 N009 N016 N017 0 2N3904
V2 0 N018 12
C1 N010 0 100µ
V3 square 0 PULSE(-1 1 0 1n 1n {T/2} {T})
R8 N017 N018 1.25k
S1 N010 triangle SW1Ctrl 0 SW
C2 N011 0 10µ
S2 N011 triangle SW2Ctrl 0 SW
C3 N012 0 1µ
S3 N012 triangle SW3Ctrl 0 SW
C4 N013 0 100n
S4 N013 triangle SW4Ctrl 0 SW
S5 N014 triangle SW5Ctrl 0 SW
C6 N015 0 1n
S6 N015 triangle SW6Ctrl 0 SW
V4 SW1Ctrl 0 {SwitchPosition==1}
V5 SW2Ctrl 0 {SwitchPosition==2}
V6 SW3Ctrl 0 {SwitchPosition==3}
V7 SW4Ctrl 0 {SwitchPosition==4}
V8 SW5Ctrl 0 {SwitchPosition==5}
V9 SW6Ctrl 0 {SwitchPosition==6}
C5 N014 0 10n
D3 N006 square 1N4148
D1 square N009 1N4148
D2 triangle N009 1N4148
D4 N006 triangle 1N4148
J1 NC_01 NC_02 NC_03 NJF
.model D D
.lib C:\Users\pig\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\pig\Documents\LTspiceXVII\lib\cmp\standard.bjt
.model NJF NJF
.model PJF PJF
.lib C:\Users\pig\Documents\LTspiceXVII\lib\cmp\standard.jft
.param pot=100
.tran 0 {10*T} {8*T}
.param SwitchPosition=6
.model SW SW(Ron=1m Roff=10Meg Vt=0.5)
.param decade= 10**(SwitchPosition)*2
.param freq=decade-(decade-prevDecade)/100*(100-pot)
.param T=1/freq
.param potTop=10k-(100-pot)/100*10k+1
.param potBot=(100-pot)/100*10k+1
.param prevDecade=10**(SwitchPosition-1)*2
.meas tran T1 find time when V(triangle)=0 rise=1
.meas tran T2 find time when V(triangle)=0 rise=2
.meas tran Frequency param 1/(T2-T1)
.option noopiter
* measures the frequency
* change these parameters\npot scales from 0 - 100%\nswitch positions are 1 - 6
* DO NOT MODIFY THESE
.lib 1N5711.lib
.lib LM741.lib
.backanno
.end
