* C:\Users\adrik\Documents\ee308\lab2\schmitt trigger.asc
V1 N005 0 PULSE(-1 1 0 {0.5 /f} {0.5 /f} 0 {1/f})
Q1 N004 N006 N007 0 2N3904
Q2 N003 n3 N007 0 2N3904
R4 N001 N004 {Rdiff1}
R5 N001 N003 {Rdiff1}
Q3 out N004 N002 0 2N3906
Q4 n1 N003 N002 0 2N3906
D1 N003 N004 1N4148
D2 N004 N003 1N4148
D3 n4 n3 1N4148
D4 n4 n1 1N4148
D5 n3 n2 1N4148
D6 n1 n2 1N4148
R6 N001 n4 15k
R8 n2 N012 12k
R10 n1 N012 {Rdiff2}
R11 out N012 {Rdiff2}
V2 N001 0 12
R13 n3 0 500
D9 N009 0 1N4148
D12 0 N010 1N4148
R1 N001 N002 4.7k
D13 n1 N009 1N4148
D14 N010 n1 1N4148
V3 0 N012 12
R7 out 0 1k
Q5 N007 N008 N011 0 NPN
R3 N011 N012 2k
R9 N008 N012 30k
R12 N008 0 10k
R2 N006 N005 1k
R14 0 N006 1k
C1 N006 N005 56p
.model D D
.lib C:\Users\adrik\AppData\Local\LTspice\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\adrik\AppData\Local\LTspice\lib\cmp\standard.bjt
.tran 0 20u 18u
.param f=1Meg
* (+)
* (-)
* chaning R3 varies duty cycle
.param Rdiff2=10.5k
.param Rdiff1=5.75k
.backanno
.end
